US09328106B2
To a suspension of zinc dust (<10 μm, 10.3 g, 159 mmol) in dry Et2O (120 mL) was added a few drops of trimethylsilyl chloride to initiate the reaction. The reaction mixture was then heated at reflux for 5 min and a few drops of 1,2-dibromoethane were carefully added. A solution of tert-butyl 2-bromoacetate (18.8 mL, 127 mmol) was added dropwise and the reaction mixture was heated at reflux for 1 hr. A solution of 2-methyl-4-nitro-pyrazole-3-carbaldehyde (77 wt % in DMSO, 6.4 g, 31.8 mmol) in THF (120 mL) was added at room temperature and stirring continued for 150 min. The reaction mixture was diluted with EtOAc (200 mL) and saturated ammonium chloride/1 M HCl (100 mL/100 mL) and stirred for 18 hr. The layers were separated and the aqueous layer was extracted with EtOAc (3×200 mL). The combined organic layers were washed with brine (100 mL), separated, dried over Na2SO4 and concentrated under reduced pressure. Purification via silica gel column chromatography (0-100% EtOAc/isohexane) gave tert-butyl 3-hydroxy-3-(1-methyl-4-nitro-1H-pyrazol-5-yl)propanoate as a colourless solid (6.52 g, 77%). To a solution of this solid (6.52 g, 24 mmol) in dioxane (168 mL) was added bisallylcarbonate (10.2 g, 72 mmol). The reaction mixture was degassed with nitrogen for 30 min. Tris(dibenzylideneacetone)-dipalladium(0) (557 mg, 0.60 mmol) and triphenylphosphine (630 mg, 2.40 mmol) were added in a single portion and degassing continued for 15 min. The reaction mixture was heated at 65° C. for 1 h and cooled to room temperature. Brine (100 mL) and EtOAc (150 mL) were added and the layers separated. The aqueous layer was extracted with EtOAc (3×150 mL) and the combined organic layers were washed with brine (100 mL), separated, dried over Na2SO4 and concentrated under reduced pressure. Purification via silica gel column chromatography (0-100% EtOAc/isohexane) gave tert-butyl 3-(allyloxy)-3-(1-methyl-4-nitro-1H-pyrazol-5-yl)propanoate as a colourless solid (7.7 g, 99%). To a solution of this solid (7.7 g, 24 mmol) in DCM (80 mL) was added TFA (40 mL) and the mixture was stirred at room temperature for 18 hr. After cooling to 0° C., sodium carbonate (5 g), saturated aqueous NaHCO3 (100 mL) and DCM (200 mL) were carefully added until the effervescence stopped. Concentrated HCl was slowly added until the solution was pH4. The aqueous layer was extracted with DCM (3×200 mL) and the combined organic layers were separated, dried over Na2SO4 and concentrated under reduced pressure to give 3-allyloxy-3-(2-methyl-4-nitro-pyrazol-3-yl)propanoic acid as a yellow oil (4.33 g, 55% over three steps). 1H NMR (400 MHz, CDCl3) δ 11.5-10.3 (br s, 1H), 8.08 (s, 1H), 5.90-5.78 (m, 3H), 5.28-5.18 (m, 1H), 4.07 (s, 3H), 4.06-3.96 (m, 2H), 2.99 (dd, J=16.2, 9.3 Hz, 1H), 2.87 (dd, J=16.2, 4.3 Hz, 1H).

reactant | tert-butyl 2-bromoacetate | 127 mmol, 18.8 mL | BrCC(=O)OC(C)(C)C | C6H11BrO2
reactant | 2-methyl-4-nitro-pyrazole-3-carbaldehyde | 31.8 mmol, 6.4 g | CN1N=CC(=C1C=O)[N+](=O)[O-] | C5H5N3O3
solvent | Et2O | 120 mL | CCOCC | C4H10O
catalyst | trimethylsilyl chloride | a few drops | C[Si](C)(C)Cl | C3H9ClSi
catalyst | 1,2-dibromoethane | a few drops | BrCCBr | C2H4Br2
solvent | THF | 120 mL | C1CCOC1 | C4H8O
solvent | EtOAc | 200 mL | CCOC(=O)C | C4H8O2
solvent | ammonium chloride | 1 M, 100 mL | [Cl-].[NH4+]
catalyst | zinc | 159 mmol, 10.3 g | [Zn] | Zn
product | tert-butyl 3-hydroxy-3-(1-methyl-4-nitro-1H-pyrazol-5-yl)propanoate | 6.52 g, 77% | OC(CC(=O)OC(C)(C)C)C1=C(C=NN1C)[N+](=O)[O-] | C11H17N3O5
